data/oMe_Silver.jsonl
{"reaction_id": "NR-317_1-C1CCCCC1_2-C(c1ccccc1)c1ccccc1","level": "medium","name": "Weinreb Ketone Synthesis","reactants_smiles": ["C1CCCCC1[Mg]Br","CON(C)C(=O)(C(c1ccccc1)c1ccccc1)","O"],"products_smiles": ["C(=O)(C1CCCCC1)(C(c1ccccc1)c1ccccc1)"],"conditions": "1. Grignard Reagent; 2. Aqueous workup","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1C(C(c1ccccc1)c1ccccc1)(O[Mg-]1(Br))N(C)[O+]1C","step_weight": 0,"rationale": "The strongly nucleophilic Grignard carbon attacks the electrophilic carbonyl carbon, aided by the electron-withdrawing carbonyl and chelation of the methoxy amide to Mg, stabilizing the tetrahedral intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(O)(C(c1ccccc1)c1ccccc1)N(C)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide oxygen, driven by the high basicity of the alkoxide and the availability of protons in acidic or neutral aqueous conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(O)(C(c1ccccc1)c1ccccc1)[NH+](C)OC","step_weight": 0,"rationale": "Protonation of the amide nitrogen increases its leaving group ability by generating a positively charged, resonance-stabilized ammonium species."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)(C1CCCCC1)(C(c1ccccc1)c1ccccc1)","step_weight": 0,"rationale": "Elimination occurs as the protonated amine departs, driven by formation of the strong C=O π bond and the stability of the neutral amine leaving group."}],"description": "The Grignard reagent attacks the electrophilic carbonyl carbon of the Weinreb amide, forming a tetrahedral intermediate stabilized by chelation to magnesium. Proton transfers under aqueous workup prepare the intermediate for elimination of the amine, yielding the ketone selectively without over-addition."}
{"reaction_id": "NR-102_1-c1ccc(C#N)cc1_2-S(=O)(=O)c1ccccc1_3-c1ccccc1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(c1ccc(C#N)cc1)(=S)N","C(c1ccccc1)(=O)C(S(=O)(=O)c1ccccc1)Cl"],"products_smiles": ["c1ccc(C#N)cc1c1nc(c1ccccc1)c(S(=O)(=O)c1ccccc1)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(C#N)cc1)(=[NH2+])SC(S(=O)(=O)c1ccccc1)C(c1ccccc1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C#N)cc1)(=N)SC(S(=O)(=O)c1ccccc1)C(c1ccccc1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(C#N)cc1C1=[NH+]C(c1ccccc1)(O)C(S(=O)(=O)c1ccccc1)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(C#N)cc1C1=NC(c1ccccc1)([OH2+])C(S(=O)(=O)c1ccccc1)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(C#N)cc1c1nc(c1ccccc1)c(S(=O)(=O)c1ccccc1)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
